US05430150
[S-(R*,R*)]-[2-Methyl-1-[[[2-(2-pyridinyl)ethyl]amino]carbonyl]butyl]carbamic acid 1,1-dimethylethyl ester
The title compound is prepared by the procedure of Example 1, using 1.0 g of 2-(2-amino-ethyl)pyridine, 2.163 g of N-(tert-butoxycarbonyl)-L-isoleucine, 6.15 g of BOP, 10.52 g of Hunig's base, and 15 ml of methylene chloride to give 2.5 g of the product as a white/yellow powder.

reactant | 2-(2-amino-ethyl)pyridine | 1.0 g | NCCC1=NC=CC=C1 | C7H10N2
reactant | N-(tert-butoxycarbonyl)-L-isoleucine | 2.163 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | BOP | 6.15 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Hunig's base | 10.52 g | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | [2-Methyl-1-[[[2-(2-pyridinyl)ethyl]amino]carbonyl]butyl]carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NC(C(CC)C)C(=O)NCCC1=NC=CC=C1)=O | C18H29N3O3
